US09255090B2
Synthesis of 3-Bromo-4-isopropoxy-phenol (C9H11O2Br, MW=229.99)
To a solution of acetic acid 3-bromo-4-isopropoxy-phenyl ester (1.44 g, 4.98 mmol, 1.00 eq.) in MeOH (20 mL), a solution of KOH (303 mg, 5.39 mmol, 1.08 eq.) in H2O (3 mL) was added. The resulting mixture was stirred at r.t. for 45 min. Water (5 mL) was added and the mixture was acidified with 2N aq. HCl soln. then extracted with DCM (3×). The comb. org. layers were dried over MgSO4, filtered, and concentrated in vacuo to give the title compound as a brown oil. The product was used without purification.

reactant | acetic acid 3-bromo-4-isopropoxy-phenyl ester | 4.98 mmol, 1.44 g, 1.00 eq. | BrC=1C=C(C=CC1OC(C)C)OC(C)=O | C11H13BrO3
reactant | KOH | 5.39 mmol, 303 mg, 1.08 eq. | [OH-].[K+]
reactant | HCl | 2N | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
solvent | H2O | 3 mL | O | H2O
solvent | Water | 5 mL | O | H2O
product | 3-Bromo-4-isopropoxy-phenol | BrC=1C=C(C=CC1OC(C)C)O | C9H11BrO2
